US08486398B2
2a 3-({2-[(4-Cyano-phenylamino)-methyl]-1-methyl-1H-benzoimidazole-5-carbonyl}-pyridin-2-yl-amino)-propionic acid
To a solution of sodium hydroxide (50.0 mmol) in 500 mL ethanol and 50 mL water was added 3-({2-[(4-Cyano-phenylamino)-methyl]-1-methyl-1H-benzoimidazole-5-carbonyl}-pyridin-2-yl-amino)-propionic acid ethyl ester (41.4 mmol). The mixture was stirred at room temperature for three hours, then ca. 350 mL ethanol were distilled off, ca. 100 mL water was added and the pH was adjusted to 6. Then diethylether (50 mL) was added and the mixture stirred over night. The product was isolated by filtration and used without further purification.

reactant | sodium hydroxide | 50.0 mmol | [OH-].[Na+]
reactant | 3-({2-[(4-Cyano-phenylamino)-methyl]-1-methyl-1H-benzoimidazole-5-carbonyl}-pyridin-2-yl-amino)-propionic acid ethyl ester | 41.4 mmol | C(C)OC(CCN(C1=NC=CC=C1)C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)=O | C27H26N6O3
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | 3-({2-[(4-Cyano-phenylamino)-methyl]-1-methyl-1H-benzoimidazole-5-carbonyl}-pyridin-2-yl-amino)-propionic acid | C(#N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)C(=O)N(CCC(=O)O)C2=NC=CC=C2 | C25H22N6O3
